US04333951
6-Methyl-4-phenylindolin-2-one.
To a slurry of 11.8 grams (0.044 mole) of 3-methylthio-6-methyl-4-phenylindoline-2-one in 500 milliliters of tetrahydrofuran are added 100 grams of a commercial Raney nickel/water preparation portionwise over a two-hour period. The mixture is filtered through Celite and the filtrate concentrated. A small amount of methylene chloride is added to the residue and the resulting solid is collected by filtration.

reactant | 3-methylthio-6-methyl-4-phenylindoline-2-one | 0.044 mole, 11.8 grams | CSC1C(NC2=CC(=CC(=C12)C1=CC=CC=C1)C)=O | C16H15NOS
solvent | tetrahydrofuran | 500 milliliters | O1CCCC1 | C4H8O
catalyst | Raney nickel water | 100 grams | [Ni].O
product | 6-Methyl-4-phenylindolin-2-one | CC1=CC(=C2CC(NC2=C1)=O)C1=CC=CC=C1 | C15H13NO
